US05900472
For comparison, a monofunctional methacrylate benzophenone was prepared. 2-benzoylbenzoic acid (113.2 g) and 4-methoxyphenol (0.06 g) were heated to 130° C. in a three-neck flask to melt, then air sparge was applied and glycidyl methacrylate (77.5 g) and benzyltriethylammonium chloride (0.20 g) were added under stirring. The reaction mixture was stirred at 120° C. for 21/2 hrs. A viscous resin was obtained.

reactant | 2-benzoylbenzoic acid | 113.2 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | 4-methoxyphenol | 0.06 g | COC1=CC=C(C=C1)O | C7H8O2
product | methacrylate benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1.C(C(=C)C)(=O)O | InChI=1S/C13H10O.C4H6O2/c14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;1-3(2)4(5)6/h1-10H;1H2,2H3,(H,5,6)
